US08211904B2
Step 4: 1-(3-isopropoxybenzyl)-2-vinylpiperidin-4-one
2-vinylpiperidin-4-one (4.85 g, 38.7 mmol) in acetonitrile (40 ml) was added 1-(chloromethyl)-3-isopropoxybenzene (7.16 g, 38.7 mmol) and finely ground K2CO3 (16.1 g, 116 mmol). The mixture was stirred at 60° C. for 12 hrs. The solution was filtered, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel Biotage 65i, eluting with 15% ethyl acetate/hexanes.

reactant | 2-vinylpiperidin-4-one | 38.7 mmol, 4.85 g | C(=C)C1NCCC(C1)=O | C7H11NO
reactant | 1-(chloromethyl)-3-isopropoxybenzene | 38.7 mmol, 7.16 g | ClCC1=CC(=CC=C1)OC(C)C | C10H13ClO
reactant | K2CO3 | 116 mmol, 16.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(3-isopropoxybenzyl)-2-vinylpiperidin-4-one | C(C)(C)OC=1C=C(CN2C(CC(CC2)=O)C=C)C=CC1 | C17H23NO2
